US04655974
The procedure of Example 4 was repeated except that 0.874 mol of acetic acid was used in place of the lauric acid. The reaction was carried out at about 85° C. for 3 hours. Analysis showed that only a trace amount of phenyl acetate formed and 8 millimols of biphenyl were formed.

reactant | acetic acid | 0.874 mol | C(C)(=O)O | C2H4O2
reactant | phenyl acetate | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
product | biphenyl | 8 millimols | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
